US09211249B2
Tryptophan isopropyl ester.
HBr (120 g) and tryptophan (5 g) were dissolved in water (1 L). Caffeine (100 g) and menthol (10 g) were added into the mixture and the mixture was stirred for a few minutes. The mixture was filled into either spray bottles or roll-on bottles.

reactant | HBr | 120 g | Br | BrH
reactant | tryptophan | 5 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | Caffeine | 100 g | N1(C)C(=O)N(C)C=2N=CN(C)C2C1=O | C8H10N4O2
reactant | menthol | 10 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
solvent | water | 1 L | O | H2O
product | Tryptophan isopropyl ester | C(C)(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C14H18N2O2
